US08293781B2
5-bromo-3-(3-phenylpropanoyl)-1H-indole
To a solution of 5-bromoindole (1.0 g) in methylene chloride (10 ml), 1-(3-phenylpropanoyl)-1H-1,2,3-benzotriazole (1.28 g) was added. While stirring under ice cooling, a solution of titanium(IV) chloride (1.11 ml) in methylene chloride (5.0 ml) was added and the mixture was stirred at room temperature for 5 days. To the reaction solution, ice water (50 ml) was added, the mixture was stirred for a while, then the organic layer was separated and successively washed with water and brine and dried over anhydrous sodium sulfate. The solvent was distilled off in vacuo and the residue obtained was purified by silica gel column chromatography (methylene chloride:methanol=19:1 to 4:1) to afford the above-identified compound (1.22 g).

reactant | 5-bromoindole | 1.0 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 1-(3-phenylpropanoyl)-1H-1,2,3-benzotriazole | 1.28 g | C1(=CC=CC=C1)CCC(=O)N1N=NC2=C1C=CC=C2 | C15H13N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium(IV) chloride | 1.11 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-bromo-3-(3-phenylpropanoyl)-1H-indole | 1.22 g | BrC=1C=C2C(=CNC2=CC1)C(CCC1=CC=CC=C1)=O | C17H14BrNO
